2153-10-01 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -at midnight, was weaned off levophed.  Blood pressures remained
   stable.
   -Triple lumen was pulled back about 3 cm and is now in a proper
   location
   -4/4 bottles grew gram negative rods.  Added cipro.
   -noted to have 1st degree AV block on telemetry
   -lactate: 0.8, 0.9
   -CE: Trops: 0.32 -> 0.21.  CK: 225 -> 163
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 07:05 AM
   Ciprofloxacin - [**2153-9-30**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-1**] 04:23 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-30**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 68 (58 - 109) bpm
   BP: 126/52(70) {65/38(44) - 127/77(82)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.5 kg (admission): 65 kg
    CVP: 11 (2 - 12)mmHg
   SvO2: 84%
   Total In:
                                                                  6,925 mL
                                                                    189 mL
   PO:
   TF:
   IVF:
                                                                    925 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    420 mL
   Urine:
                                                                  1,800 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,125 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, pupils 2mm and reactive, dry mucous membranes,
   oropharynx clear
   Neck: supple, JVP visible at angle of jaw, no LAD
   Lungs: bibasilar crackles, no wheezes
   CV: tachycardic, irregularly irregular with pac's, normal S1 + S2, no
   murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place draining clear urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   right knee with well healed TKR incision, no surrounding erythema or
   exudate
   Labs / Radiology
   261 K/uL
   8.7 g/dL
   98 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.9 mEq/L
   21 mg/dL
   106 mEq/L
   132 mEq/L
   26.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-9-30**]  10:29 AM
                             [**2153-9-30**]  06:34 PM
                             [**2153-10-1**]  02:02 AM
   WBC
   14.4
   11.2
   Hct
   29.7
   26.8
   Plt
   317
   261
   Cr
   1.2
   1.3
   TropT
   0.32
   0.21
   0.19
   Glucose
   183
   98
   Other labs:
    PT / PTT / INR:14.2/35.4/1.2,
   CK / CKMB / Troponin-T:137/6/0.19,
   Lactic Acid:0.9 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.0 mg/dL
   Micro:
   Blood culture ([**9-30**]): GNR
   Urine culture ([**9-30**]): pending
   MRSA screen: pending
   Imaging:
   CXR (from today): FINDINGS: The right IJ line tip is in the SVC. There
   is no pneumothorax. There are small bilateral pleural effusions. There
   is mild cardiomegaly.
   Assessment and Plan
   Mrs. [**Known lastname **] is an 88 yo F presenting with urosepsis.
   .
   #Urosepsis - most likely cause of her sepsis given positive ua and no
   other source of infection.  Unclear what cause of preceeding vomiting
   and diarrhea possibly [**2-26**] UTI vs viral diarrhea.
   -continue vanc/zosyn/cipro
   -f/u urine/blood cultures
   -check CVP, goal [**11-5**]
   -on levophed/dopa in the ED, attempt to wean as tolerated
   -follow lactate
   -will send stool cultures if diarrhea recurrs
   .
   #Non-gap acidosis - likely [**2-26**] volume resuscitation with normal
   saline.  Allow to autocorrect.
   -consider LR if requires further bolus
   .
   #Demand Ischemia - she has bump in troponin and CK, with flat MB and no
   EKG changes in setting of severe sepsis/hypotension.
   -consider asa on discharge for primary prevention
   -repeat pm CE's and EKG
   -no acute management at this time.
   .
   #First degree AV block: asymptomatic
   - monitor on tele
   .
   #Hypertension - takes chlorthalidone/atenolol as needed at home
   -holding antihypertensives in setting of sepsis
   .
   #FEN: IVF boluses prn for CVP > 10, replete electrolytes, sips
   ICU Care
   Nutrition:
   sips
   Glycemic Control:
   Lines:
   Presep Catheter - [**2153-9-30**] 06:39 AM
   18 Gauge - [**2153-9-30**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  not applicable
   VAP:  none
   Comments:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition: ICU
   Code status:
   Disposition:

2153-10-02 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -off pressor at 8am, CVL d/c'd in PM
   -GNR in blood culture pan-sensitive, zosyn d/c'd, pt is on cipro
   -pt stable, c/o tomorrow morning
   -pt complained of chronic leg and thigh pain, given lidocaine patch
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 07:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-1**] 12:00 PM
   Ciprofloxacin - [**2153-10-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 64 (63 - 72) bpm
   BP: 111/46(62) {108/46(62) - 130/63(78)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.4 kg (admission): 65 kg
    CVP: 12 (11 - 12)mmHg
   Total In:
                                                                    844 mL
   PO:
                                                                    220 mL
   TF:
   IVF:
                                                                    624 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    300 mL
   Urine:
                                                                  1,170 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General: alert, awake, no acute distress
   HEENT: central area of redness on tongue, no visible sores, no whitish
   thrush
   Lungs: CTAB, no wheezes
   CV: RRR, normal S1 + S2, no murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place draining clear urine
   Ext: no clubbing, cyanosis or edema, right knee with well healed TKR
   incision, no surrounding erythema or exudate
   MSK: pain upon movement on R lateral thigh and calf, no TTP
   Labs / Radiology
   277 K/uL
   8.7 g/dL
   93 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   131 mEq/L
   26.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2153-9-30**]  10:29 AM
                             [**2153-9-30**]  06:34 PM
                             [**2153-10-1**]  02:02 AM
                             [**2153-10-2**]  05:22 AM
   WBC
   14.4
   11.2
   8.3
   Hct
   29.7
   26.8
   26.6
   Plt
   [**Telephone/Fax (3) 8158**]
   Cr
   1.2
   1.3
   1.2
   TropT
   0.32
   0.21
   0.19
   Glucose
   183
   98
   93
   Other labs:
   Micro:
[**2153-9-30**] URINE CULTURE (Preliminary): GRAM NEGATIVE ROD(S).>100,000ORGANISMS/ML.
[**2153-9-30**] (4 of 4) BLOOD CULTURE GRAM NEGATIVE ROD(S). PRELIMINARY SENSITIVITY.
CEFTAZIDIME-----------       S
CEFTRIAXONE-----------       S
CIPROFLOXACIN---------       S
GENTAMICIN------------       S
TOBRAMYCIN------------       S
[**2153-9-30**] MRSA SCREEN (Pending)
[**2153-10-1**] Blood Culture, Routine (Pending)
[**2153-10-2**] Blood Culture, Routine (Pending)
   no CXR today
   Assessment and Plan
   Mrs. [**Known lastname **] is an 88 yo F presenting with urosepsis.
   .
   #Urosepsis
 blood/urine culture positive with GNR.
   - continue renally dosed Cipro (400 mg q24h) -> switch to PO
   - daily surveillance cultures
   - monitor renal fx
   - d/c foley
   .
   #Mouth/tongue pain: red beefy tongue
   - lidocaine or nystatin oral flush
   .
   # Lower Extremity pain: [**2-26**] to recent R TKA
   - continue Lidocaine patch to affected area
   - Tylenol PRN
   - PT/OT consult
   .
   #Non-gap acidosis
 initially thought to be [**2-26**] volume resuscitation
   with normal saline,
   - consider LR if requires further bolus
   - work up for RTA (urine AG, osm)
   - check urine lytes
   .
   #Demand Ischemia - she has bump in troponin and CK, with flat MB and no
   EKG changes in setting of severe sepsis/hypotension.
   - no acute management at this time
   - no ASA at this time given age and baseline status
   .
   #First degree AV block: asymptomatic
   - monitor on tele
   .
   #Hypertension - takes chlorthalidone/atenolol as needed at home
   - consider restarting today since BP is stable
   ICU Care
   Nutrition: regular
   Glycemic Control:  not needed
   Lines:
   18 Gauge - [**2153-10-1**] 08:00 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  daughter needed to translate (Gujarati)
   Code status: FULL
   Disposition: transfer to floor today

2153-10-02 10:32:00 Physician Attending Progress Note
Chief Complaint: hypotension, urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 y.o. woman with urosepsis.
   24 Hour Events:
 PRESEP CATHETER - STOP [**2153-10-1**] 04:30 PM
   Continues off pressors for more than 24 hours.
   Central line discontinued.
   Blood and urine cultures growing pansensitive E.Coli except bactrim.
   Zosyn discontinued yesterday.  Continues on cirpofloxicin.
   Mild nausea.
 CALLED OUT
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 07:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-1**] 12:00 PM
   Ciprofloxacin - [**2153-10-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-2**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-2**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 66 (63 - 70) bpm
   BP: 125/60(75) {108/46(62) - 138/67(81)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.4 kg (admission): 65 kg
   CVP: 12 (12 - 12)mmHg
   Total In:
                                                                    844 mL
   PO:
                                                                    220 mL
   TF:
   IVF:
                                                                    624 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    380 mL
   Urine:
                                                                  1,170 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -326 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   277 K/uL
   93 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   131 mEq/L
   26.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2153-9-30**]  10:29 AM
                             [**2153-9-30**]  06:34 PM
                             [**2153-10-1**]  02:02 AM
                             [**2153-10-2**]  05:22 AM
   WBC
   14.4
   11.2
   8.3
   Hct
   29.7
   26.8
   26.6
   Plt
   [**Telephone/Fax (3) 8158**]
   Cr
   1.2
   1.3
   1.2
   TropT
   0.32
   0.21
   0.19
   Glucose
   183
   98
   93
   Other labs: PT / PTT / INR:14.2/35.4/1.2, CK / CKMB /
   Troponin-T:137/6/0.19, Differential-Neuts:90.8 %, Lymph:4.9 %, Mono:4.1
   %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.0 mg/dL
   Microbiology: Urine and blood cultures as per 24 hour events
   Assessment and Plan
 SHOCK, OTHER secondary to urosepsis.  Growing pansensitive E. Coli
   (except bactrim). Now on cirprofloxicin.  She has had some mild
   nausea.  Abdominal exam benigh.  Will try to encourage po intake,
   consider switching to po cirpo if tolerated.  Discontinue foley.
 HYPONATREMIA:  Resolving with hydration/volume repletion and
   resolution of sepsis.  Persistently slightly down.  Appears dry so
   still may be component of hypovolemia hyponatremia.  Check urine lytes
   and osoms.
 RENAL INSUFFICIENCY:  Improving.  Good urine output.  Workup for RTA
   given persistently low bicarb.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-10-1**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes